US05948928
Example 1--Preparation of Triethoxysilyl Trifluoroacetate (TESTA)
Tetraethylorthosilicate (TEOS), 104 g, is loaded into a dried 1.3 L stainless steel pressure reaction vessel. A stoichiometric amount of trifluoroacetic anhydride, 105 g, is added. The reactor is sealed and the contents are heated at 80-100° C. for at least 12 hours. Preferably, the reaction is run at 80° C. for 16 hours. After sufficient time is permitted for conversion into the desired product, the reaction mixture is cooled and transferred to a vacuum distillation apparatus.

reactant | Tetraethylorthosilicate | C(C)O[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | Triethoxysilyl Trifluoroacetate | FC(C(=O)O[Si](OCC)(OCC)OCC)(F)F | C8H15F3O5Si
